US06436929B1
3-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile
The product was prepared, from 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile and Lawesson's reagent using the procedure of Example 9, as a yellow solid: 248-249° C.; 1H-NMR (DMSO-d6) δ12.3 (s, 1H), 8.15 (bs, 1H), 8.02 (d, 1H, J=10.48 Hz), 7.85-7.78 (m, 3H), 7.13 (d, 1H, J=8.92 Hz), 1.71 (s, 6H); MS (APCI) m/z 313([M+H]+, 100%); Anal. Calc. For C17H13FN2OS: C, 65.37; H, 4.19; N, 8.97. Found: C, 65.26; H, 4.31; N, 8.61.

reactant | 3-(4,4-dimethyl-2-oxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile | CC1(C2=C(NC(O1)=O)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2O2
reactant | Lawesson's reagent | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
product | 3-(4,4-Dimethyl-2-thioxo-1,4-dihydro-2H-benzo[d][1,3]oxazin-6-yl)-5-fluorobenzonitrile | CC1(C2=C(NC(O1)=S)C=CC(=C2)C=2C=C(C#N)C=C(C2)F)C | C17H13FN2OS
